US05843968
Step 2: 4,4-bis(3-chloro-4-(2-quinolylmethoxy)phenyl)pentanoic acid
The desired compound was prepared according to the method of Example 1, step 3, except substituting 4,4-bis(3-chloro-4-(2-quinolylmethoxy)phenyl)pentanoic acid methyl ester, prepared as in step 1, for 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanoic acid methyl ester: mp 91°-94° C.; 1H NMR (300 MHz, DMSO-d6) d 1.53 (s, 3H), 1.96 (m, 2H), 2,30 (m, 2H), 5.44 (s, 4H), 7.09 (dd, 2H, J=3, 9 Hz), 7.20 (d, 2H, J=9 Hz), 7.24 (d, 2H, J=3Hz), 7.62 (m, 2H), 7.71 (d, 2H, J=9 Hz), 7.80 (m, 2H), 8.00 (m, 4H), 8.44 (d, 2H, J=9 Hz), 12.08 (bs, 1H); MS (DCl--NH3) m/e 637 (M+H)+. Anal. Calc'd. for C37H30Cl2N2O4 ×H2O: C, 67.79; H, 4.92; N, 4.27. Found: C, 68.02; H, 4.85; N, 3.94.

reactant | 4,4-bis(3-chloro-4-(2-quinolylmethoxy)phenyl)pentanoic acid methyl ester | COC(CCC(C)(C1=CC(=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)Cl)C1=CC(=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)Cl)=O | C38H32Cl2N2O4
reactant | 4,4-bis(4-(2-quinolylmethoxy)phenyl)pentanoic acid methyl ester | COC(CCC(C)(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C38H34N2O4
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 4,4-bis(3-chloro-4-(2-quinolylmethoxy)phenyl)pentanoic acid | ClC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(CCC(=O)O)(C)C1=CC(=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)Cl | C37H30Cl2N2O4
